US07723347B2
N4-{3-Fluoro-4-[(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]phenyl}-6-(trifluoromethyl)pyrimidine-2,4-diamine
123 mg (480 mmol) of 2-fluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine and 123 mg (620 μmol) of 4-chloro-6-(trifluoromethyl)pyrimidine-2-amine are suspended in 3.5 ml of water. 620 μl of 1 M hydrochloric acid are added, and the mixture is heated at 100° C. overnight. Using 1N aqueous sodium hydroxide solution, the suspension is then adjusted to pH 10, resulting in the precipitation of crystals. The solid is filtered off and washed with water. The crude product is purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol (7 M ammonia) 100:1 to 10:1).

reactant | 2-fluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | 480 mmol, 123 mg | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)NC=C2C | C14H13FN4
reactant | 4-chloro-6-(trifluoromethyl)pyrimidine-2-amine | 620 μmol, 123 mg | ClC1=NC(=NC(=C1)C(F)(F)F)N | C5H3ClF3N3
reactant | hydrochloric acid | 1 M, 620 μl | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 3.5 ml | O | H2O
product | N4-{3-Fluoro-4-[(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]phenyl}-6-(trifluoromethyl)pyrimidine-2,4-diamine | FC=1C=C(C=CC1NC1=C2C(=NC=C1)NC=C2C)NC2=NC(=NC(=C2)C(F)(F)F)N | C19H15F4N7
